US08022062B2
7-Chloro-9-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Cool a solution of 7-chloro-9-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.5 g, 8.0 mmol), pyridine (3.25 mL, 40.2 mmol) and DCM (80 mL) at 0° C. and add dropwise trifluoromethanesulfonic anhydride (2.43 mL, 14.5 mmol) over 20 min. Stir at room temperature for 1 h. Wash the reaction mixture sequentially with 1N aqueous HCl, saturated NaHCO3 solution and brine. Dry the organic fraction over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (gradient from 19:1 to 1:1) to obtain the title compound (3.1 g, 87%).

reactant | 7-chloro-9-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 8.0 mmol, 2.5 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)O | C12H10ClF4NO2
reactant | pyridine | 40.2 mmol, 3.25 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 14.5 mmol, 2.43 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-9-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.1 g, 87% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)OS(=O)(=O)C(F)(F)F | C13H9ClF7NO4S
